US07074800B1
Using an analogous procedure to that described in Example 38, 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (100 mg, 0.31 mmol), (prepared as described for the starting material in Example 9), was reacted with 5-amino-2-methylindole (50 mg, 0.34 mmol) to give 6-methoxy-4-(2-methylindol-5-ylamino)-7-(3-pyrrolidin-1-ylpropoxy)quinazoline hydrochloride (138 mg, 89%).

reactant | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 0.31 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 5-amino-2-methylindole | 0.34 mmol, 50 mg | NC=1C=C2C=C(NC2=CC1)C | C9H10N2
product | 6-methoxy-4-(2-methylindol-5-ylamino)-7-(3-pyrrolidin-1-ylpropoxy)quinazoline hydrochloride | 138 mg, 89% | Cl.COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCC1)NC=1C=C2C=C(NC2=CC1)C | InChI=1S/C25H29N5O2.ClH/c1-17-12-18-13-19(6-7-21(18)28-17)29-25-20-14-23(31-2)24(15-22(20)26-16-27-25)32-11-5-10-30-8-3-4-9-30;/h6-7,12-16,28H,3-5,8-11H2,1-2H3,(H,26,27,29);1H
